US08426411B2
AcOH (380 mL) was added to 4-methylnicotinic acid hydrochloride (50.5 g, 291 mmol, Maybridge) and PtO2 (5.05 g, 22.2 mmol, Johnson Matthey) in a 600 mL stainless steel reactor. The mixture was stirred under 220 psi of hydrogen at ambient temperature for about 14 hr. The supernatant solution was filtered through a nylon membrane and rinsed with enough AcOH until only the catalyst remained. The filtrate was concd under reduced pressure to give a clear oil that solidified upon cooling to ambient temperature to give crude 4-methylpiperidine-3-carboxylic acid with AcOH as an excipient (88.94 g, 170% crude): LC/MS (Table 1, Method b) Rt=0.44 min; MS m/z: 144 (M+H)+.

reactant | 4-methylnicotinic acid hydrochloride | 291 mmol, 50.5 g | Cl.CC1=CC=NC=C1C(=O)O
reactant | hydrogen | [H][H] | H2
catalyst | PtO2 | 22.2 mmol, 5.05 g | O=[Pt]=O
solvent | AcOH | CC(=O)O | C2H4O2
solvent | AcOH | 380 mL | CC(=O)O | C2H4O2
product | 4-methylpiperidine-3-carboxylic acid | CC1C(CNCC1)C(=O)O | C7H13NO2
